US03952012
5-(p-Chlorobenzoyl)-N,N-diethyl-1-methylpyrrole-2-acetamide:
To a solution of 6.1 g. (0.02 mole) of 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetic acid in 100 ml. chloroform is added 3.8 ml. (0.03 mole) thionyl chloride. The mixture is stirred and refluxed overnight. The solvent is then evaporated and the residue is added quickly to a solution of 22 ml. diethylamine in 50 ml. water while cooling externally with an ice-bath. A solid precipitates, 5-(p-chlorobenzoyl)-N,N-diethyl-1-methylpyrrole-2-acetamide, which is collected and purified by recrystallization from methylcyclohexane (with charcoal while in solution), m.p. 82°-85°C.

reactant | 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetic acid | 0.02 mole | ClC1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)O)C=C1 | C14H12ClNO3
reactant | thionyl chloride | 0.03 mole | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(p-Chlorobenzoyl)-N,N-diethyl-1-methylpyrrole-2-acetamide | ClC1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)N(CC)CC)C=C1 | C18H21ClN2O2
